US08030499B2
Step 36-1: Synthesis of 5-chloro-3-hydroxy-3-pyridin-2-yl-1,3-dihydro-2H-indol-2-one
With 10.0 g of 5-chloro-1H-indol-2,3-dione and 25.3 g of bromo pyridine as starting materials, 5.03 g of the title compound (orange color solid) was obtained by a similar method to Step 34-3.

reactant | 5-chloro-1H-indol-2,3-dione | 10.0 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | bromo pyridine | 25.3 g | BrC1=NC=CC=C1 | C5H4BrN
product | 5-chloro-3-hydroxy-3-pyridin-2-yl-1,3-dihydro-2H-indol-2-one | 5.03 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=NC=CC=C1)O | C13H9ClN2O2
